US07005431B2
A solution of 2,2,6,6-tetramethylpiperidine (3.10 ml, 18.4 mmol) in THF (80 ml) was cooled to −20° C., then treated with a 2.5 M solution of butyllithium in hexanes (7.03 ml, 17.6 mmol). After stirring at −20° C. for 10 min, the mixture was cooled to −78° C. and treated with a solution of 4-(2,6-difluorophenyl)pyridine (3.20 g, 16.7 mmol) in THF (20 ml). The mixture was stirred at −78° C. for 1.5 h before adding trimethyl borate (3.78 ml, 33.5 mmol). The mixture was allowed to warm to room temperature before adding 5 N aqueous HCl (20 ml). After stirring for 12 h, the solvent was removed in vacuo and the residue was partitioned between 1 N aqueous HCl (100 ml) and diethyl ether (100 ml). The organic layer was then extracted with 1 N aqueous NaOH and the aqueous layer was acidified to pH 8 with 5 N aqueous HCl. The resulting solid was collected by filtration, washed with water and dried to afford 3.20 g (81%) of 2,4-difluoro-3-(pyridin-4-yl)benzeneboronic acid as a white solid: MS (ES+) m/z 235 [M+H]+.

reactant | 2,2,6,6-tetramethylpiperidine | 18.4 mmol, 3.10 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | butyllithium | C(CCC)[Li]
reactant | 4-(2,6-difluorophenyl)pyridine | 16.7 mmol, 3.20 g | FC1=C(C(=CC=C1)F)C1=CC=NC=C1 | C11H7F2N
reactant | trimethyl borate | 33.5 mmol, 3.78 ml | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 5 N, 20 ml | Cl | ClH
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2,4-difluoro-3-(pyridin-4-yl)benzeneboronic acid | 3.20 g, 81% | FC1=C(C=CC(=C1C1=CC=NC=C1)F)B(O)O | C11H8BF2NO2
